US05663346
5-mesylamino-3-[(7-azaindol-3-yl)methylene]-2-oxindole;
To a stirred solution of 5-amino-3-[(7-azaindol-3-yl) methylene]-2-oxindole (2.773 g, 10 mmol) in pyridine (10 ml) was added gradually mesylchloride (1.146 g, 10 mmol) at 0°-5° C. under cooling. The reaction mixture was stirred for about 5 h at 0°-5° C. and then for 15 h at room temperature. The mixture was poured onto an ice-water mixture, the precipitate filtered off, the residue washed thoroughly with water and then chromatographed on silica gel using CHCl3 --MeOH mixtures as eluant. Thus pure title compound was obtained in about 70% yield.

reactant | 5-amino-3-[(7-azaindol-3-yl) methylene]-2-oxindole | 10 mmol, 2.773 g | NC=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | C16H12N4O
reactant | mesylchloride | 10 mmol, 1.146 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-mesylamino-3-[(7-azaindol-3-yl)methylene]-2-oxindole | about 70% yield | S(=O)(=O)(C)NC=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | C17H14N4O3S
